US05034395
3.4 Grams of methyl 3-(4-tetrahydropyranyloxy-phenyl)2(E)-propenyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3,5-dicarboxylate was dissolved in 50 ml of methanol, then 0.2 g of p-toluenesulfonic acid was added to the solution and the whole mixture was stirred at a room temperature for 4 hours. The reaction mixture was neutralized by adding sodium hydrogen carbonate, and methanol was removed by evaporation. The residue thus obtained was purified by means of a silica gel column chromatography (eluent: chloroform), recrystallized from benzene-ether to yield 2 g of methyl 3-(4-hydroxyphenyl)-2(E)-propenyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3,5-dicarboxylate as in the form of light yellow powdery substance. Melting point: 137.5°-139° C.

reactant | methyl 3-(4-tetrahydropyranyloxy-phenyl)2(E)-propenyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3,5-dicarboxylate | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC\C=C\C1=CC=C(C=C1)OC1OCCCC1)C | C30H32N2O8
reactant | p-toluenesulfonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | methyl 3-(4-hydroxyphenyl)-2(E)-propenyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3,5-dicarboxylate | 2 g | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC\C=C\C1=CC=C(C=C1)O)C | C25H24N2O7
